US06121285
1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(R)-methoxypyrrolidine
1-[1-Benzyloxycarbonyl-4-(R)-methoxy-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid (713 mg, 2.22 mmol) was dissolved in tert-butyl alcohol (20 ml), and the solution was mixed with diphenylphosphoryl azide (623 μl, 2.89 mmol) and triethylamine (775 μl, 5.56 mmol), stirred at room temperature for 20 minutes and then heated under reflux for 19 hours. The reaction solution was cooled and then concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography and eluted with an eluant of n-hexane:ethyl acetate=3:2, to thereby obtain the title compound (431 mg, 50%) as a colorless oil.

reactant | 1-[1-Benzyloxycarbonyl-4-(R)-methoxy-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid | 2.22 mmol, 713 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)OC)C1(CC1)C(=O)O | C17H21NO5
reactant | diphenylphosphoryl azide | 2.89 mmol, 623 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 5.56 mmol, 775 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butyl alcohol | 20 ml | C(C)(C)(C)O | C4H10O
product | 1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(R)-methoxypyrrolidine | 431 mg, 50% | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)OC | C21H30N2O5
